US08455477B2
A 250 ml flask was charged with 3-Aminopyridine (8 g, 85 mmol) and diethyl 2-(ethoxymethylene)malonate (18.5 g, 85.6 mmol). The mixture was heated to 110° C. for 30 min, and then cooled to ambient temperature to give diethyl [(E)-(pyridin-3-ylimino)methyl]malonate.

reactant | 3-Aminopyridine | 85 mmol, 8 g | NC=1C=NC=CC1 | C5H6N2
reactant | diethyl 2-(ethoxymethylene)malonate | 85.6 mmol, 18.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl [(E)-(pyridin-3-ylimino)methyl]malonate | N1=CC(=CC=C1)\N=C\C(C(=O)OCC)C(=O)OCC | C13H16N2O4
